US07462633B2
A suspension of 3,5-difluoro-4-(methoxymethyl)oxynitrobenzene (35.0 g) and palladium catalyst (10% on charcoal, 3.00 g) in methanol (250 mL) ) was hydrogenated at 1 atm for 2 hours at room temperature. After filtration of the catalyst, the filtrate was concentrated in vacuo to give 4-amino-2,6-difluoro-1-(methoxymethyl)oxybenzene. This was used in the next step without further purification. To a solution of crude 4-amino-2,6-difluoro-1-(methoxymethyl)oxybenzene thus obtained in tetrahydrofuran (500 mL) was successively added sodium hydrogencarbonate (17.4 g), water (100 mL) and benzyl chloroformate (30.0 g) at 0° C., and the mixture was stirred at room temperature for 15 minutes. The mixture was diluted with saturated sodium hydrogencarbonate solution and extracted with ethyl acetate. The organic extracts were washed with brine, dried over anhydrous magnesium sulfate, and then concentrated in vacuo. Flash chromatography (silica, hexane:ethyl acetate=6:1) of the residue gave Reference Example 8 (49.10 g).

reactant | 3,5-difluoro-4-(methoxymethyl)oxynitrobenzene | 35.0 g | FC=1C=C(C=C(C1OCOC)F)[N+](=O)[O-] | C8H7F2NO4
catalyst | palladium | 3.00 g | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | 4-amino-2,6-difluoro-1-(methoxymethyl)oxybenzene | NC1=CC(=C(C(=C1)F)OCOC)F | C8H9F2NO2
